US05728686
Diethyl [5-(7-benzyl-3-methylxanthin-1-yl)pentyl]phosphonate
The title compound was prepared from 7-benzyl-3-methylxanthine (0.059 mol) and diethyl 5-bromopentanephosphonate (0.07 mol) analogously to Example 23.

reactant | 7-benzyl-3-methylxanthine | 0.059 mol | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)C | C13H12N4O2
reactant | diethyl 5-bromopentanephosphonate | 0.07 mol | BrCCCCCP(OCC)(=O)OCC | C9H20BrO3P
product | Diethyl [5-(7-benzyl-3-methylxanthin-1-yl)pentyl]phosphonate | C(C1=CC=CC=C1)N1C=NC=2N(C(N(C(C12)=O)CCCCCP(OCC)(OCC)=O)=O)C | C22H31N4O5P
